US07598400B2
AMPO was prepared from EMPO based on the procedure described previously with minor modification.2 A solution of 0.5 g of EMPO was mixed with 10 mL of concentrated ammonium hydroxide in a sealed tube for 5 days at room temperature with shaking. The mixture was rotary evaporated to yield a viscous dark oil and passed through a silica gel column (200-400 mesh 60 Å) twice using methanol-ethyl acetate (30:70) as solvent. White crystalline product was obtained (0.10 g, 24%), mp. 134-135° C. (lit. 137° C.)., (corrected using 3,4 dimethoxybenzoic acid, m.p., 180° C. and urea, m.p., 135° C.). 1H NMR (400 MHz, D2O) δ 1.64 (3 H, s, C(5)Me), 2.21-2.29 and 2.54-2.61 (2 H, m, C(4)H), 2.73-2.73 (2 H, m, C(3)H), 7.36 (1 H, t, C(2)H). 1H NMR (400 MHz, CDCl3) 1.90 (3 H, s, C(5)Me), 2.27-2.34 and 3.14-3.20 (2 H, m, C(4)H), 2.79 (2 H, m, C(3)H), 7.19 (1 H, t, C(2)H), 5.85 and 8.46 (2 H, br, NH2). 13C NMR (100 MHz, CDCl3) δ 24.2 (s, —CH3), 25.0 (s, C-3), 30.5 (s, C-4), 79.1 (C-5), 137.4 (C-2), 172.9 (—C═O). IR (Neat film) 1676 (C═O), 1585 (C═N), 1215 (N—O). ESI-MS calcd for C6H10N2O2Na+ m/z 165.0634, found 165.0637 amu. Anal. Calcd. for C6H10N2O2: C, 50.81; H, 7.23; N, 19.14. Found: C, 50.61; H, 7.25; N, 19.31.

reactant | 5-Ethoxycarbonyl-5-methyl-1-pyrroline N-oxide | C(C)OC(=O)C1(CCC=[N+]1[O-])C | C8H13NO3
reactant | 5-Ethoxycarbonyl-5-methyl-1-pyrroline N-oxide | 0.5 g | C(C)OC(=O)C1(CCC=[N+]1[O-])C | C8H13NO3
reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
reactant | 3,4 dimethoxybenzoic acid | COC=1C=C(C(=O)O)C=CC1OC | C9H10O4
reactant | urea | NC(=O)N | CH4N2O
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 5-Carbamoyl-5-methyl-1-pyrroline N-oxide | C(N)(=O)C1(CCC=[N+]1[O-])C | C6H10N2O2
